US04948804
1-benzoyl 5-ethoxy pyrrolidin-2-one
12 g of benzoyl chloride is added to a solution of 11 g of 5-ethoxy pyrrolidin-2-one in 64 cm3 of pyridine cooled to -5° C., with agitation for 8 hours at 0° C. After 16 hours at rest, agitation is resumed for 8 hours at ambient temperature followed by dilution with 500 cm3 of water and extraction with chloroform. The solvent is then evaporated and the residue is chromatographed on silica (eluent: benzene-ethyl acetate 5-2). Then the solvent is evaporated and the residue is distilled under 0.5 mm Hg. The product obtained is washed with an aqueous solution of sodium bicarbonate, extracted with chloroform, then the solvent is evaporated. 2.1 g of expected product is obtained. m.p. =53°-55° C., isolated from petroleum ether. The sample for analysis was distilled at 130°-135° C. under 0.5 mm Hg.

reactant | benzoyl chloride | 12 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 5-ethoxy pyrrolidin-2-one | 11 g | C(C)OC1CCC(N1)=O | C6H11NO2
solvent | pyridine | 64 cm3 | N1=CC=CC=C1 | C5H5N
product | 1-benzoyl 5-ethoxy pyrrolidin-2-one | 2.1 g | C(C1=CC=CC=C1)(=O)N1C(CCC1OCC)=O | C13H15NO3
